US08710256B2
Preparation of 2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid
2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid methyl ester (250 g, 0.713 mol), DMSO (750 mL) and 30% H2O2 (250 mL), were added to a 5 L three-necked round bottom flask equipped with addition funnel, mechanical stirrer, heating mantel, reflux condenser, thermocouple and nitrogen inlet. Potassium carbonate (158 g, 1.14 mol, 1.6 eq) was dissolved in water (750 mL) and added dropwise over 30 minutes. During the addition, a temperature increase was observed (from 23° C. to 34° C.). The resulting mixture was warmed up to about 42-45° C. and the progress of the reaction monitored by HPLC. After 3 hours, to the warm mixture was added activated carbon (ECOSORB-941) (37.5 g, 15% by weight). The resulting slurry was refluxed for 1 hour, and then filtered hot through CELITE®. The CELITE® pad was rinsed with H2O (1.5 L). The resulting mixture was cooled to about 10° C. and quenched with 2.0N HCl (pH 2, 1.22 L), to yield a mixture comprising a white solid precipitated. The mixture was aged under agitation for a period of about 4 hours in an ice bath and then filtered and dried for 48 hours in a vacuum oven to yield the title compound as a white crystalline solid.

reactant | 2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid methyl ester | 0.713 mol, 250 g | COC(C(CC1=C(C=C(C=C1C)C(N)=O)C)NC(=O)OC(C)(C)C)=O | C18H26N2O5
reactant | DMSO | 750 mL | CS(=O)C | C2H6OS
reactant | H2O2 | 250 mL | OO | H2O2
reactant | Potassium carbonate | 1.14 mol, 158 g, 1.6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | water | 750 mL | O | H2O
product | 2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=C(C=C1C)C(N)=O)C | C17H24N2O5
